US07691867B2
A solution of lithium aluminium hydride in tetrahydrofuran (1M, 22.0 ml, 22.0 mmol) was added dropwise to a solution of (2S)-1-(tert-butoxycarbonyl)piperazine-2-carboxylic acid (see U.S. Pat. No. 5,348,955, 1.007 g, 4.38 mmol) in tetrahydrofuran (20 ml) cooled to −15° C. The mixture was allowed to warm to 15° C. over 1.5 hours and then heated at reflux for 3 hours. The mixture was cooled in an ice bath and then water (0.4 ml) was added dropwise followed by a dilute solution of sodium hydroxide (1M, 0.4 ml) and a further portion of water (1.2 ml). The mixture was stirred at room temperature for 0.5 hours and then allowed to stand overnight. The resultant precipitate was filtered and the residue was washed with diethyl ether. The filtrate was evaporated and the residue purified by silica gel chromatography eluting with a 10% mixture of methanol (containing 10% 7M ammonia in methanol) in dichloromethane to give [(2S)-1-methylpiperazin-2-yl]methanol (0.3802 g, 67% yield):

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (2S)-1-(tert-butoxycarbonyl)piperazine-2-carboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CNCC1)C(=O)O | C10H18N2O4
reactant | water | 0.4 ml | O | H2O
reactant | sodium hydroxide | 1M, 0.4 ml | [OH-].[Na+]
reactant | water | 1.2 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 22.0 mmol, 1M, 22.0 ml | O1CCCC1 | C4H8O
product | [(2S)-1-methylpiperazin-2-yl]methanol | 0.3802 g, 67% yield | CN1[C@@H](CNCC1)CO | C6H14N2O
